US05993780
a. 5-Amino-3-acetoxymethyl-N-methyl-N-(2,3-dihydroxypropyl)-2,4,6-triiodo-benzamide
5-Amino-3-acetoxymethyl-2,4,6-triiodobenzoyl chloride was reacted with N-methyl-2,3-dihydroxypropanamine according to the conditions in Example 24g. The product was isolated in 97% yield.

reactant | 5-Amino-3-acetoxymethyl-2,4,6-triiodobenzoyl chloride | NC=1C(=C(C(=C(C(=O)Cl)C1I)I)COC(C)=O)I | C10H7ClI3NO3
reactant | N-methyl-2,3-dihydroxypropanamine | CNCC(CO)O | C4H11NO2
product | 5-Amino-3-acetoxymethyl-N-methyl-N-(2,3-dihydroxypropyl)-2,4,6-triiodo-benzamide | 97% yield | NC=1C(=C(C(=C(C(=O)N(CC(CO)O)C)C1I)I)COC(C)=O)I | C14H17I3N2O5
